US08461164B2
1. 2,6,7-Trimethylpteridin-4(1H)-one
A mixture of 6-chloro-2-methylpyrimidine-4,5-diamine (3.2 g, 20 mmol) and 2,3-butanedione (3.6 g, 42 mmol) in n-butanol (40 mL) was stirred at 75-80° C. for 1 h. After cooling, the reaction was diluted with Et2O (50 mL) and the solid collected by suction filtration. This was dried in vacuo affording, 2,6,7-trimethylpteridin-4(1H)-one (3.9 g), as a gold powder which was used in the next step without further purification.

reactant | 6-chloro-2-methylpyrimidine-4,5-diamine | 20 mmol, 3.2 g | ClC1=C(C(=NC(=N1)C)N)N | C5H7ClN4
reactant | 2,3-butanedione | 42 mmol, 3.6 g | CC(C(C)=O)=O | C4H6O2
reactant | n-butanol | 40 mL | C(CCC)O | C4H10O
solvent | Et2O | 50 mL | CCOCC | C4H10O
product | 2,6,7-Trimethylpteridin-4(1H)-one | CC=1NC2=NC(=C(N=C2C(N1)=O)C)C | C9H10N4O
